US04046773
A solution of 11.9 g. (0.1 mol.) of phenylisocyanate in 75 ml. of toluene is added dropwise to the stirred suspension of 15.2 g. (0.12 mol.) of 2-methyl-5-nitroimidazole in 60 ml. of water at 10° to 12° C. When the addition is complete, the mixture is stirred for further 4 hours. The separated product is filtered off, washed and dried. 20.4 g. (82.9%) of 1-phenylcarbamoyl-2-methyl-5-nitroimidazole are obtained; m.p.: 218°-220° C.

reactant | phenylisocyanate | 0.1 mol | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2-methyl-5-nitroimidazole | 0.12 mol | CC=1NC(=CN1)[N+](=O)[O-] | C4H5N3O2
solvent | water | O | H2O
product | 1-phenylcarbamoyl-2-methyl-5-nitroimidazole | 82.9% | C1(=CC=CC=C1)NC(=O)N1C(=NC=C1[N+](=O)[O-])C | C11H10N4O3
